US09056874B2
3-Amino-2-methyl-4-nitrobenzonitrile
N-(3-cyano-2-methyl-6-nitrophenyl)acetamide (0.37 g, 1.7 mmol) was added to a 2N aq. H2SO4 solution (10 mL). The reaction was heated to 100° C. for 6 hr. The reaction mixture was cooled to rt and poured into iced water. The solid precipitate was collected by filtration, and then washed with water several times to give the title compound. MS (ESI−) m/z 176.1 (M−H).

reactant | N-(3-cyano-2-methyl-6-nitrophenyl)acetamide | 1.7 mmol, 0.37 g | C(#N)C=1C(=C(C(=CC1)[N+](=O)[O-])NC(C)=O)C | C10H9N3O3
reactant | H2SO4 | 2N, 10 mL | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
product | 3-Amino-2-methyl-4-nitrobenzonitrile | NC=1C(=C(C#N)C=CC1[N+](=O)[O-])C | C8H7N3O2
